US09415027B2
A solution of lithium diisopropylamide (2.0 M in THF, 0.18 mL, 0.36 mmol) was added to a solution of 7-methoxy-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-inden-1-one (103 mg, 0.34 mmol) in THF (1.1 mL) at −78° C. After 1 h at −78° C., methyl cyanoformate (40 μL, 0.50 mmol) was added and the reaction mixture was allowed to warm to room temperature. After stirring at room temperature overnight, the reaction was quenched with saturated aqueous NH4Cl (25 mL) and extracted with EtOAc (3×40 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by combiflash (12 g column, hexanes→EtOAc, gradient) to afford 26 mg (21%) of methyl 7-methoxy-1-oxo-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-indene-2-carboxylate.

reactant | lithium diisopropylamide | 0.36 mmol, 2.0 M, 0.18 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 7-methoxy-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-inden-1-one | 0.34 mmol, 103 mg | COC=1C=CC(=C2CCC(C12)=O)C1=CC(=CC=C1)C(F)(F)F | C17H13F3O2
reactant | methyl cyanoformate | 0.50 mmol, 40 μL | C(#N)C(=O)OC | C3H3NO2
solvent | THF | 1.1 mL | C1CCOC1 | C4H8O
product | methyl 7-methoxy-1-oxo-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-indene-2-carboxylate | 26 mg, 21% | COC=1C=CC(=C2CC(C(C12)=O)C(=O)OC)C1=CC(=CC=C1)C(F)(F)F | C19H15F3O4
